US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(3-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (96 mg, 0.165 mmol) was deprotected in methanol (5 ml), HCl in dioaxane (5 ml). This afforded 20 mg (23.5% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.759-8.755 (d, 1H), 8.639-8.635 (d, 1H), 7.818 (s, 1H), 7.482-7.370 (m, 3H), 7.284-7.265 (d, 1H), 7.154-7.087 (m, 3H), 6.995-6.971 (m, 1H), 5.489 (s, 2H), 3.530-3.516 (m, 4H), 3.413-3.387 (m, 4H), 2.288 (s, 6H). MS: m/z=481.1 (M+1); HPLC: 85.59% in method A.

reactant | tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.165 mmol, 96 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)N3CCN(CC3)C(=O)OC(C)(C)C)C)C=CC1 | C34H37FN6O2
reactant | HCl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(3-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 20 mg, 23.5% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC(=CC=C3)N3CCNCC3)C)C=CC1 | C29H29FN6
